US05504095
6-Nitro-3H-1,2,3-benzoxathiazoline-2,2-dioxide
Diethylene glycol dimethyl ether (350 ml) solution of 2-Amino-5-Nitrophenol (40 g) and sulfamide (25 g) was added dropwise to refluxing diethylene glycol dimethyl ether (100 ml) over a period of 50 minutes. Mixture was stirred and refluxing continued 15 minutes, then cooled to room temperature. Solvent was evaporated off, and 500 ml of 1N hydrochloric acid was added. Reaction mixture was extracted with diethyl ether, extract was dried over magnesium sulfate and solvent was removed in vacuo. Crude product was purified by the column chromatography on silica gel (2% Methanol-Ethyl acetate) to give the desired intermediate, 10.5 g.

reactant | 2-Amino-5-Nitrophenol | 40 g | NC1=C(C=C(C=C1)[N+](=O)[O-])O | C6H6N2O3
reactant | sulfamide | 25 g | S(=O)(=O)(N)N | H4N2O2S
solvent | diethylene glycol dimethyl ether | 100 ml | COCCOCCOC | C6H14O3
solvent | Diethylene glycol dimethyl ether | 350 ml | COCCOCCOC | C6H14O3
product | 6-Nitro-3H-1,2,3-benzoxathiazoline-2,2-dioxide | [N+](=O)([O-])C1=CC2=C(NS(O2)(=O)=O)C=C1 | C6H4N2O5S
